US08067445B2
Step 1: {6-Methoxy-2′-[(methoxycarbonyl-phenethyl-amino)-methyl]-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester
Prepared according to the procedure described in Example 23, Step 1, using the following starting materials: [6-methoxy-2′-(phenethylamino-methyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester and methyl chloroformate.

reactant | [6-methoxy-2′-(phenethylamino-methyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CNCCC1=CC=CC=C1)=O | C26H26F3NO3
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
product | {6-Methoxy-2′-[(methoxycarbonyl-phenethyl-amino)-methyl]-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(CCC1=CC=CC=C1)C(=O)OC)=O | C28H28F3NO5
